US08466289B2
Synthesis of Intermediate Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-7-yl ester (I-7c)
Triflic anhydride (2.78 g, 9.9 mmol) was added dropwise to a stirred solution of 7-hydroxy-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (1.5 g, 7.0 mmol) and TEA (1.42 g, 14.060 mmol) in DCM (30 mL) at −78° C. over a period of 1 hour. The resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was monitored by TLC (50% ethylacetate in hexane). The reaction mixture was partitioned between DCM and water. The organic layer was washed with water, brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (50% ethylacetate in hexane) afforded 0.5 g of the product (20.6% yield).

reactant | Triflic anhydride | 9.9 mmol, 2.78 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 7-hydroxy-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 7.0 mmol, 1.5 g | OC=1C(=C2N(C(C1C)=O)CCO2)[N+](=O)[O-] | C8H8N2O5
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | Trifluoro-methanesulfonic acid 6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-7-yl ester | 0.5 g, 20.6% yield | CC1=C(C(=C2N(C1=O)CCO2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C9H7F3N2O7S
